US06096741
1.0 g (5.8 mmol) of 2-methoxyimino-N,N-dimethylacetoacetamide was dissolved in 15 ml of ethanol and 0.5 ml of acetic acid, and 0.78 g (6.4 mmol) of N-methyl-N-phenylhydrazine was added and the mixture was stirred for 24 hours at room temperature. After distilling the solvent of water was added and the mixture was extracted three times with 20 ml of diethylether. After washing with a dilute hydrochloric acid, water and a saturated aqueous sodium chloride, the mixture was dried over with anhydrous magnesium sulfate, and the solvent was distilled of, and finally the residue thus obtained was purified by a column chromatography on a silica gel (n-hexane/ethyl acetate) to obtain 1.38 g (yield: 86%) of 2-methoxyimino-N,N-dimethy-3-(N-methyl-N-phenylhydrazono)butyramide as a yellow oil.

reactant | 2-methoxyimino-N,N-dimethylacetoacetamide | 5.8 mmol, 1.0 g | CON=C(C(=O)N(C)C)C(=O)C | C7H12N2O3
reactant | N-methyl-N-phenylhydrazine | 6.4 mmol, 0.78 g | CN(N)C1=CC=CC=C1 | C7H10N2
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
product | 2-methoxyimino-N,N-dimethy-3-(N-methyl-N-phenylhydrazono)butyramide | 1.38 g, yield: 86% | CON=C(C(=O)N(C)C)C(C)=NN(C1=CC=CC=C1)C | C14H20N4O2
